US05939432
To a well-stirred and ice-cooled solution of 1,4-dioxa-8-azaspiro[4,5]decane (34.9 mmol, 5 g) in dichloromethane (200 mL) under an argon atmosphere, was added triethylamine (52.4 mmol, 7.3 mL) and then benzyloxycarbonyl chloride (42 mmol, 5.93 mL) dropwise. The suspension was stirred at room temperature for 24 hours and the precipitated solid was filtered. The organic solution was evaporated under vacuum to give an oily residue which was chromatographed on silica gel eluting with ethyl ether and petroleum ether mixture to afford 8-benzyloxycarbonyl 1,4-dioxa-8-azaspiro [4,5]decane in quantitative yield.

reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 34.9 mmol, 5 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | triethylamine | 52.4 mmol, 7.3 mL | C(C)N(CC)CC | C6H15N
reactant | benzyloxycarbonyl chloride | 42 mmol, 5.93 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 8-benzyloxycarbonyl 1,4-dioxa-8-azaspiro [4,5]decane | quantitative yield | C(C1=CC=CC=C1)OC(=O)N1CCC2(OCCO2)CC1 | C15H19NO4
